### PR TITLE
[Merged by Bors] - feat(FieldTheory/IsGaloisGroup): prove the Galois correspondence for `IsGaloisGroup`

### PR DESCRIPTION
**Pull request by tb65536**
This PR reproves the Galois correspondence for `IsGaloisGroup`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 1]
```diff
@@ -78,4 +78,93 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
     (g : G) (x : L) : mulEquivCongr G H K L g • x = g • x :=
   AlgEquiv.ext_iff.mp ((mulEquivAlgEquiv H K L).apply_symm_apply (mulEquivAlgEquiv G K L g)) x
 
+variable (H H' : Subgroup G) (F F' : IntermediateField K L)
+
+instance to_subgroup [hGKL : IsGaloisGroup G K L] :
+    IsGaloisGroup H (FixedPoints.intermediateField H : IntermediateField K L) L where
+  faithful := have := hGKL.faithful; inferInstance
+  commutes := ⟨fun g x y ↦ by simp_rw [IntermediateField.smul_def, smul_eq_mul, smul_mul', x.2 g]⟩
+  isInvariant := ⟨fun x h ↦ ⟨⟨x, h⟩, rfl⟩⟩
```
Comment (kckennylau) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
instance to_subgroup [hGKL : IsGaloisGroup G K L] :
    IsGaloisGroup H (FixedPoints.intermediateField H : IntermediateField K L) L where
  faithful := have := hGKL.faithful; inferInstance
  commutes := inferInstanceAs <| SMulCommClass H (FixedPoints.subfield H L) L
  isInvariant := ⟨fun x h ↦ ⟨⟨x, h⟩, rfl⟩⟩
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 2]
```diff
@@ -78,4 +78,93 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+    IsGaloisGroup (fixingSubgroup G (F : Set L)) F L where
+  faithful := have := hGKL.faithful; inferInstance
+  commutes := ⟨fun g x y ↦ by
+    simp_rw [IntermediateField.smul_def, smul_eq_mul, smul_mul', Subgroup.smul_def, g.2 x]⟩
+  isInvariant := ⟨fun x h ↦ ⟨⟨x, by
+    have := hGKL.finiteDimensional
+    have := hGKL.isGalois
+    rw [← IsGalois.fixedField_fixingSubgroup F]
+    exact fun ⟨g, hg⟩ ↦ (mulEquivCongr_apply_smul _ G K L g x).symm.trans
+      (Subtype.forall.mp h _ (by simpa [mem_fixingSubgroup_iff] using hg))⟩, rfl⟩⟩
```
Comment (kckennylau) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
variable {G K L} in
theorem of_mulEquiv_algEquiv [Finite G] [IsGalois K L]
    (e : G ≃* Gal(L/K)) (he : ∀ g x, e g x = g • x) : IsGaloisGroup G K L where
  faithful := ⟨fun {g₁ g₂} h ↦ e.injective <| AlgEquiv.ext <| by simpa [he]⟩
  commutes := ⟨by simp [← he]⟩
  isInvariant :=
    have := Finite.of_equiv _ e.toEquiv
    have := IsGalois.finiteDimensional_of_finite K L
    ⟨fun y hy ↦ (IsGalois.mem_bot_iff_fixed y).mpr <| e.surjective.forall.mpr <| by simpa [he]⟩

instance of_fixed_field [Finite G] [FaithfulSMul G L] :
    IsGaloisGroup G (FixedPoints.subfield G L) L :=
  of_mulEquiv_algEquiv (FixedPoints.toAlgAutMulEquiv _ _) fun _ _ ↦ rfl

instance to_intermediateField [Finite G] [hGKL : IsGaloisGroup G K L] :
    IsGaloisGroup (fixingSubgroup G (F : Set L)) F L :=
  let e := ((mulEquivAlgEquiv G K L).subgroupMap (fixingSubgroup G (F : Set L))).trans <|
    (MulEquiv.subgroupCongr (map_mulEquivAlgEquiv_fixingSubgroup ..)).trans <|
    IntermediateField.fixingSubgroupEquiv F
  have := hGKL.isGalois
  .of_mulEquiv_algEquiv e fun _ _ ↦ rfl
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 3]
```diff
@@ -78,4 +78,93 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+theorem card_fixingSubgroup_eq_finrank [Finite G] [IsGaloisGroup G K L] :
+    Nat.card (fixingSubgroup G (F : Set L)) = Module.finrank F L :=
+  card_eq_finrank (fixingSubgroup G (F : Set L)) F L
```
Comment (kckennylau) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
theorem card_fixingSubgroup_eq_finrank [Finite G] [IsGaloisGroup G K L] :
    Nat.card (fixingSubgroup G (F : Set L)) = Module.finrank F L :=
  card_eq_finrank ..
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 4]
```diff
@@ -78,4 +78,93 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+  · rw [hGKL.card_subgroup_eq_finrank_fixedpoints, hGKL.card_subgroup_eq_finrank_fixedpoints]
+    apply IntermediateField.finrank_le_of_le_left
+    rw [le_fixedPoints_iff_le_fixingSubgroup]
+
+theorem fixedPoints_fixingSubgroup [Finite G] :
+    FixedPoints.intermediateField (fixingSubgroup G (F : Set L)) = F := by
+  have : FiniteDimensional K L := hGKL.finiteDimensional
+  refine (IntermediateField.eq_of_le_of_finrank_eq' ?_ ?_).symm
+  · rw [le_fixedPoints_iff_le_fixingSubgroup]
+  · rw [← card_subgroup_eq_finrank_fixedpoints, card_fixingSubgroup_eq_finrank]
```
Comment (kckennylau) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: I have ungolfed your proofs 🙃🙃🙃
```suggestion
/-- The Galois correspondence from intermediate fields to subgroups. -/
noncomputable def intermediateFieldEquivSubgroup [Finite G] :
    IntermediateField K L ≃o (Subgroup G)ᵒᵈ :=
  have := isGalois G K L
  have := finiteDimensional G K L
  IsGalois.intermediateFieldEquivSubgroup.trans <| (mulEquivAlgEquiv G K L).comapSubgroup.dual

@[simp] lemma intermediateFieldEquivSubgroup_apply [Finite G] {F} :
    intermediateFieldEquivSubgroup G K L F = .toDual (fixingSubgroup G (F : Set L)) := rfl

lemma ofDual_intermediateFieldEquivSubgroup_apply [Finite G] {F} :
    (intermediateFieldEquivSubgroup G K L F).ofDual = fixingSubgroup G (F : Set L) := rfl

@[simp] lemma _root_.OrderIso.dual_symm_apply {α β : Type*} [LE α] [LE β] (e : α ≃o β) (x) :
    e.dual.symm x = .toDual (e.symm x.ofDual) := rfl

-- defeq abuse in original!!
@[simp] lemma _root_.IsGalois.intermediateFieldEquivSubgroup_symm_apply
    {F : Type u_1} [Field F] {E : Type u_2} [Field E] [Algebra F E]
    [FiniteDimensional F E] [IsGalois F E] (H) :
    (IsGalois.intermediateFieldEquivSubgroup (F := F) (E := E)).symm H =
      IntermediateField.fixedField H.ofDual := rfl

@[simp] lemma intermediateFieldEquivSubgroup_symm_apply [Finite G] {H} :
    (intermediateFieldEquivSubgroup G K L).symm H =
      FixedPoints.intermediateField H.ofDual := by
  obtain ⟨H, rfl⟩ := OrderDual.toDual.surjective H
  simp [IntermediateField.ext_iff, intermediateFieldEquivSubgroup,
    (mulEquivAlgEquiv G K L).surjective.forall, -mulEquivAlgEquiv_symm_apply]

lemma intermediateFieldEquivSubgroup_symm_apply_toDual [Finite G] {H} :
    (intermediateFieldEquivSubgroup G K L).symm (.toDual H) =
      FixedPoints.intermediateField H :=
  intermediateFieldEquivSubgroup_symm_apply ..

theorem fixingSubgroup_fixedPoints [Finite G] :
    fixingSubgroup G ((FixedPoints.intermediateField H : IntermediateField K L) : Set L) = H := by
  rw [← intermediateFieldEquivSubgroup_symm_apply_toDual,
    ← ofDual_intermediateFieldEquivSubgroup_apply, OrderIso.apply_symm_apply]; rfl

theorem fixedPoints_fixingSubgroup [Finite G] :
    FixedPoints.intermediateField (fixingSubgroup G (F : Set L)) = F := by
  rw [← ofDual_intermediateFieldEquivSubgroup_apply, ← intermediateFieldEquivSubgroup_symm_apply,
    OrderIso.symm_apply_apply]
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 5]
```diff
@@ -78,4 +78,93 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+theorem fixingSubgroup_top : fixingSubgroup G ((⊤ : IntermediateField K L) : Set L) = ⊥ := by
+  simp only [Subgroup.ext_iff, mem_fixingSubgroup_iff, Subgroup.mem_bot]
+  exact fun x ↦ ⟨fun h ↦ hGKL.faithful.eq_of_smul_eq_smul (by simpa using h), fun h ↦ by simp [h]⟩
+
+theorem fixedPoints_top :
+    (FixedPoints.intermediateField (⊤ : Subgroup G) : IntermediateField K L) = ⊥ := by
+  simp only [eq_bot_iff, SetLike.le_def, FixedPoints.mem_intermediateField_iff, Subtype.forall,
+    Subgroup.mem_top, Subgroup.mk_smul, forall_const]
+  exact hGKL.isInvariant.isInvariant
```
Comment (kckennylau) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
theorem fixedPoints_top :
    (FixedPoints.intermediateField (⊤ : Subgroup G) : IntermediateField K L) = ⊥ := by
  convert IsGaloisGroup.fixedPoints_eq_bot G K L
  ext; simp
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 6]
```diff
@@ -78,4 +78,93 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+end SMulCommClass
+
+section IsGaloisGroup
+
+variable [hGKL : IsGaloisGroup G K L]
+
+theorem fixingSubgroup_top : fixingSubgroup G ((⊤ : IntermediateField K L) : Set L) = ⊥ := by
+  simp only [Subgroup.ext_iff, mem_fixingSubgroup_iff, Subgroup.mem_bot]
+  exact fun x ↦ ⟨fun h ↦ hGKL.faithful.eq_of_smul_eq_smul (by simpa using h), fun h ↦ by simp [h]⟩
```
Comment (kckennylau) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
theorem fixingSubgroup_top : fixingSubgroup G ((⊤ : IntermediateField K L) : Set L) = ⊥ := by
  have := hGKL.faithful
  ext; simpa [mem_fixingSubgroup_iff, Set.ext_iff] using MulAction.fixedBy_eq_univ_iff_eq_one
```

**Review by kckennylau — CHANGES_REQUESTED** [review]

**Comment by kckennylau** [comment]
I've added some more definitions in places where I think it's helpful to the general theory and it also generalises the theorems in question.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 7]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+theorem map_mulEquivAlgEquiv_fixingSubgroup
+    [IsGaloisGroup G K L] [Finite G] (F : IntermediateField K L) :
+    (fixingSubgroup G (F : Set L)).map (mulEquivAlgEquiv G K L) = F.fixingSubgroup := by
+  ext g
+  obtain ⟨g, rfl⟩ := (mulEquivAlgEquiv G K L).surjective g
+  simp [mem_fixingSubgroup_iff]
+
+variable (H H' : Subgroup G) (F F' : IntermediateField K L)
+
+instance to_subgroup [hGKL : IsGaloisGroup G K L] :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
instance subgroup [hGKL : IsGaloisGroup G K L] :
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 8]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+  faithful := ⟨fun {g₁ g₂} h ↦ e.injective <| AlgEquiv.ext <| by simpa [he]⟩
+  commutes := ⟨by simp [← he]⟩
+  isInvariant := ⟨fun y hy ↦ (InfiniteGalois.mem_bot_iff_fixed y).mpr <|
+    e.surjective.forall.mpr <| by simpa [he]⟩
+
+instance of_fixed_field [Finite G] [FaithfulSMul G L] :
+    IsGaloisGroup G (FixedPoints.subfield G L) L :=
+  of_mulEquiv_algEquiv (FixedPoints.toAlgAutMulEquiv _ _) fun _ _ ↦ rfl
+
+instance to_intermediateField [Finite G] [hGKL : IsGaloisGroup G K L] :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
instance intermediateField [Finite G] [hGKL : IsGaloisGroup G K L] :
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 9]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+variable {G K L} in
+theorem of_mulEquiv_algEquiv [IsGalois K L] (e : G ≃* Gal(L/K)) (he : ∀ g x, e g x = g • x) :
+    IsGaloisGroup G K L where
+  faithful := ⟨fun {g₁ g₂} h ↦ e.injective <| AlgEquiv.ext <| by simpa [he]⟩
+  commutes := ⟨by simp [← he]⟩
+  isInvariant := ⟨fun y hy ↦ (InfiniteGalois.mem_bot_iff_fixed y).mpr <|
+    e.surjective.forall.mpr <| by simpa [he]⟩
+
+instance of_fixed_field [Finite G] [FaithfulSMul G L] :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
instance fixedPoints [Finite G] [FaithfulSMul G L] :
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 10]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+variable (H H' : Subgroup G) (F F' : IntermediateField K L)
+
+instance to_subgroup [hGKL : IsGaloisGroup G K L] :
+    IsGaloisGroup H (FixedPoints.intermediateField H : IntermediateField K L) L where
+  faithful := have := hGKL.faithful; inferInstance
+  commutes := inferInstanceAs <| SMulCommClass H (FixedPoints.subfield H L) L
+  isInvariant := ⟨fun x h ↦ ⟨⟨x, h⟩, rfl⟩⟩
+
+theorem card_subgroup_eq_finrank_fixedpoints [IsGaloisGroup G K L] :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Would this be a good simp lemma, if you swap the sides?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 11]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+instance to_intermediateField [Finite G] [hGKL : IsGaloisGroup G K L] :
+    IsGaloisGroup (fixingSubgroup G (F : Set L)) F L :=
+  let e := ((mulEquivAlgEquiv G K L).subgroupMap (fixingSubgroup G (F : Set L))).trans <|
+    (MulEquiv.subgroupCongr (map_mulEquivAlgEquiv_fixingSubgroup ..)).trans <|
+    IntermediateField.fixingSubgroupEquiv F
+  have := hGKL.isGalois
+  .of_mulEquiv_algEquiv e fun _ _ ↦ rfl
+
+theorem card_fixingSubgroup_eq_finrank [Finite G] [IsGaloisGroup G K L] :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:233]: Should this be a simp lemma?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 12]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+
+theorem fixingSubgroup_le_of_le (h : F ≤ F') :
+    fixingSubgroup G (F' : Set L) ≤ fixingSubgroup G (F : Set L) :=
+  fun _ hσ ⟨x, hx⟩ ↦ hσ ⟨x, h hx⟩
+
+section SMulCommClass
+
+variable [SMulCommClass G K L]
+
+theorem fixingSubgroup_bot : fixingSubgroup G ((⊥ : IntermediateField K L) : Set L) = ⊤ := by
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:248]:
```suggestion
@[simp]
theorem fixingSubgroup_bot : fixingSubgroup G ((⊥ : IntermediateField K L) : Set L) = ⊤ := by
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 13]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+  simp [Subgroup.ext_iff, mem_fixingSubgroup_iff, IntermediateField.mem_bot]
+
+theorem fixedPoints_bot :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:252]:
```suggestion
@[simp]
theorem fixedPoints_bot :
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 14]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+    FixedPoints.intermediateField H' ≤ (FixedPoints.intermediateField H : IntermediateField K L) :=
+  fun _ hσ ⟨x, hx⟩ ↦ hσ ⟨x, h hx⟩
+
+end SMulCommClass
+
+section IsGaloisGroup
+
+variable [hGKL : IsGaloisGroup G K L]
+
+theorem fixingSubgroup_top : fixingSubgroup G ((⊤ : IntermediateField K L) : Set L) = ⊥ := by
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:272]:
```suggestion
@[simp]
theorem fixingSubgroup_top : fixingSubgroup G ((⊤ : IntermediateField K L) : Set L) = ⊥ := by
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 15]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+  have := hGKL.faithful
+  ext; simpa [mem_fixingSubgroup_iff, Set.ext_iff] using MulAction.fixedBy_eq_univ_iff_eq_one
+
+theorem fixedPoints_top :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:277]:
```suggestion
@[simp]
theorem fixedPoints_top :
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 16]
```diff
@@ -184,4 +184,126 @@ theorem mulEquivCongr_apply_smul [IsGaloisGroup G K L] [Finite G] [IsGaloisGroup
...
+noncomputable def intermediateFieldEquivSubgroup [Finite G] :
+    IntermediateField K L ≃o (Subgroup G)ᵒᵈ :=
+  have := isGalois G K L
+  have := finiteDimensional G K L
+  IsGalois.intermediateFieldEquivSubgroup.trans <| (mulEquivAlgEquiv G K L).comapSubgroup.dual
+
+@[simp] lemma intermediateFieldEquivSubgroup_apply [Finite G] {F} :
+    intermediateFieldEquivSubgroup G K L F = .toDual (fixingSubgroup G (F : Set L)) := rfl
+
+lemma ofDual_intermediateFieldEquivSubgroup_apply [Finite G] {F} :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Why is this one not simp? Idem dito for the other decls below?

**Review by jcommelin — COMMENTED** [review]
I haven't understood the pattern of when you use `lemma` and when you use `theorem` 😉

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 16 above)
Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Well, this one is covered by the previous, I think.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
